US07585878B2
3,3-Difluoro-1-methyl-5-nitro-1,3-dihydro-2H-indol-2-one was subjected to a hydrogenation reaction using a Raney-Ni catalyst under a hydrogen stream to obtain 5-amino-3,3-difluoro-1-methyl-1,3-dihydro-2H-indol-2-one.

reactant | 3,3-Difluoro-1-methyl-5-nitro-1,3-dihydro-2H-indol-2-one | FC1(C(N(C2=CC=C(C=C12)[N+](=O)[O-])C)=O)F | C9H6F2N2O3
catalyst | Ni | [Ni] | Ni
product | 5-amino-3,3-difluoro-1-methyl-1,3-dihydro-2H-indol-2-one | NC=1C=C2C(C(N(C2=CC1)C)=O)(F)F | C9H8F2N2O
